US07592456B2
A mixture of sulfanilic acid (10 g, 0.52 mmol), benzene (4.7 g, 0.56 mmol) and trifluoroacetic anhydride (42 g) in trifluoroacetic acid (42 g) was heated to reflux for 3 days. The solvent was removed in vacuo and the residue taken up in 10% aqueous sodium hydroxide and heated to 100° C. for 15 minutes. The resulting white precipitate was filtered off, washed with water and dried to give [4-(phenylsulfonyl)phenyl]amine. 1H NMR (400 MHz, d6-DMSO) δ 7.83-7.81 (2H, m), 7.61-7.51 (5H, m), 6.62-6.58 (2H, m), 6.15 (2H, s).

reactant | sulfanilic acid | 0.52 mmol, 10 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | benzene | 0.56 mmol, 4.7 g | C1=CC=CC=C1 | C6H6
reactant | trifluoroacetic anhydride | 42 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 42 g | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(phenylsulfonyl)phenyl]amine | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N | C12H11NO2S
